US05716956
Preparation of 4-(4-Aminophenyl)-1,2-dihydro-2-(N,N-dimethylcarbamoyl)-1-methyl-6,7-methylendioxyphthalazine
A solution of 4-(4-acetylaminophenyl)-1,2-dihydro-2-(N,N-dimethylcarbamoyl)-1-methyl-6,7-methylendioxyphthalazine (97 mg, 0.25 mmole) in 1N sodium hydroxide (3 mL) and methanol (7 mL) was heated to reflux for 72 hours, cooled to ambient temperature, diluted with EtOAc (25 mL) and water (25 mL). The aqueous layer was washed with EtOAc and the combined organic layers were dried (MgSO4) and evaporated. The residue was chromatographed on silica gel with 25% hexanes/EtOAc to leave a light yellow foamy solid (63 mg, 72%). 200 MHz 1H NMR (CDCl3); δ7.45 (d, 2H, J=8.6 Hz, ArH2 '), 6.84 (s, 1H, ArH), 6.76 (d, 2H, J=8.6 Hz, ArH), 6.71 (s, 1H, ArH), 6.01 (d, 2H, J=2.9 Hz, OCH2O), 5.25 (q, 1H, J=7.1 Hz, CHCH3), 3.95 (brs, 2H, NH2), 3.07 (s, 6H, N(CH3)2), 1.33 (d, 3H, J=7.1 Hz, CHCH3): FTIR (PTFE film); 3456 cm-1, 3343, 3220, 1631, 1605, 1482, 1379, 1251, 1036.

reactant | 4-(4-acetylaminophenyl)-1,2-dihydro-2-(N,N-dimethylcarbamoyl)-1-methyl-6,7-methylendioxyphthalazine | 0.25 mmole, 97 mg | C(C)(=O)NC1=CC=C(C=C1)C1=NN(C(C2=CC3=C(C=C12)OCO3)C)C(N(C)C)=O | C21H22N4O4
solvent | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
solvent | methanol | 7 mL | CO | CH4O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | water | 25 mL | O | H2O
product | 4-(4-Aminophenyl)-1,2-dihydro-2-(N,N-dimethylcarbamoyl)-1-methyl-6,7-methylendioxyphthalazine | 63 mg, 72% | NC1=CC=C(C=C1)C1=NN(C(C2=CC3=C(C=C12)OCO3)C)C(N(C)C)=O | C19H20N4O3
